US04447430
Nitrobenzyl 7-[2-(2-formamidothiazol-4-yl)-2-cyclohexyloxyiminoacetamido]-3-cephem-4-carboxylate (syn isomer, 2.0 g.), 10% palladium carbon (0.8 g.), methanol (8 ml.), tetrahydrofuran (20 ml.), acetic acid (0.14 ml.) and water (1.4 ml.) were treated in a similar manner to that of Example 15-(2) to give 7-[2-(2-formamidothiazol-4-yl)-2-cyclohexyloxyiminoacetamido]-3-cephem-4-carboxylic acid (syn isomer, 0.77 g.).

reactant | Nitrobenzyl 7-[2-(2-formamidothiazol-4-yl)-2-cyclohexyloxyiminoacetamido]-3-cephem-4-carboxylate | 2.0 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OC(C2=CC=CC=C2)[N+](=O)[O-])C1=O)=NOC1CCCCC1 | C26H26N6O8S2
reactant | methanol | 8 ml | CO | CH4O
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | acetic acid | 0.14 ml | C(C)(=O)O | C2H4O2
catalyst | palladium carbon | 0.8 g | [C].[Pd]
solvent | water | 1.4 ml | O | H2O
product | 7-[2-(2-formamidothiazol-4-yl)-2-cyclohexyloxyiminoacetamido]-3-cephem-4-carboxylic acid | 0.77 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOC1CCCCC1 | C19H21N5O6S2
